* source AMP_INS
R_R1         N00716 N00513  10k TC=0,0 
R_R2         N00721 N00716  1k TC=0,0 
R_R3         N04795 N00721  10k TC=0,0 
R_R4         N00520 N00513  10k TC=0,0 
R_R5         N00646 N00520  10k TC=0,0 
R_R6         N04771 N04795  10k TC=0,0 
R_R7         0 N04771  10k TC=0,0 
R_R8         0 N01152  0.1 TC=0,0 
V_V1         VCC 0 5Vdc
R_R9         0 0  10k TC=0,0 
R_R10         0 N01152  10k TC=0,0 
I_I1         N01152 0 DC 1.5Adc  
V_V2         VEE 0 -5Vdc
X_U4         N01152 N00716 VCC VEE N00513 LMX24_LM2902
X_U5         0 N00721 VCC VEE N04795 LMX24_LM2902
X_U6         N04771 N00520 VCC VEE N00646 LMX24_LM2902
